US05739344
Step A: Preparation of 2-(4-nitrophenyl)-5-nitrobenzoxazole
2-Amino-4-nitrophenol (46.2 g, 0.3 mol) was dissolved in diglyme (1250 mL) and added to a 3-necked, 3-liter flask equipped with a condenser, a mechanical stirrer, and a hearer. 4-Nitrobenzoyl chloride (57 g, 0.3 mol) was dissolved in diglyme (250 mL) and added to the flask. The mixture was heated, with stirring, to 120° C. for 1 hour, whereupon polyphosphoric acid (90 g) was added. Heating was continued at 150° C. to 160° C. for an additional 1 hour. The reaction mixture was cooled to 110° C. to 120° C. and deionized water (500 mL) was added over a period of 15 to 30 minutes while the mixture was maintained at 100° C. The reaction mixture was cooled, and the precipitated product was filtered and washed with methanol (300 mL), then dried. The melting point was found to be 253° C. to 255° C. The overall yield was 95 percent with an assay of 100 percent by liquid chromatography.

reactant | 2-Amino-4-nitrophenol | 0.3 mol, 46.2 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | 4-Nitrobenzoyl chloride | 0.3 mol, 57 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | water | 500 mL | O | H2O
solvent | diglyme | 1250 mL | COCCOCCOC | C6H14O3
solvent | diglyme | 250 mL | COCCOCCOC | C6H14O3
product | 2-(4-nitrophenyl)-5-nitrobenzoxazole | yield was 95 percent | [N+](=O)([O-])C1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)[N+](=O)[O-] | C13H7N3O5
